US04571398
4-[3-(3-(Piperidinomethyl)phenoxy)propylamino]-pyrimidin-2-thione
3-(3-(Piperidinomethyl)phenoxy)propylamine (11.0 g) and dithiouracil (5.8 g) were refluxed in pyridine (100 ml; dried over potassium hydroxide) for approximately 72 hours. The solution was cooled and evaporated under reduced pressure to afford a residue. This residue was treated with water, evaporated under reduced pressure, and azeotroped thoroughly with n-propanol in an effort to remove pyridine. To the resultant residue was added further n-propanol to give the title compound as a solid which was collected by filtration and dried (13.88 g).

reactant | 3-(3-(Piperidinomethyl)phenoxy)propylamine | 11.0 g | N1(CCCCC1)CC=1C=C(OCCCN)C=CC1 | C15H24N2O
reactant | dithiouracil | 5.8 g | N1C(=S)NC(=S)C=C1 | C4H4N2S2
reactant | water | O | H2O
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | 4-[3-(3-(Piperidinomethyl)phenoxy)propylamino]-pyrimidin-2-thione | N1(CCCCC1)CC=1C=C(OCCCNC2=NC(NC=C2)=S)C=CC1 | C19H26N4OS
